US04166813
2,2-Bis[4-{2-hydroxy-3-[N-octyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 98)
A mixture of 13 g of 2,2,6,6-tetramethyl-4-octylaminopiperidine and 8 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane in 200 ml of methanol was refluxed, with stirring, for 6 hours. At the end of this time, the solvent was removed from the residue by evaporation under reduced pressure, leaving a residue, which was purified by column chromatography through silica gel eluted with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine. The desired compound was obtained in the form of a colourless, transparent, very viscous liquid having an Rf value of 0.27 on thin layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 2,2,6,6-tetramethyl-4-octylaminopiperidine | 13 g | CC1(NC(CC(C1)NCCCCCCCC)(C)C)C | C17H36N2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 8 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | methanol | 200 ml | CO | CH4O
product | 2,2-Bis[4-{2-hydroxy-3-[N-octyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCCCCCCC)C1CC(NC(C1)(C)C)(C)C)O)CN(C1CC(NC(C1)(C)C)(C)C)CCCCCCCC | C55H96N4O4
